US04435403
4th stage: A solution of 2.84 g of sodium in 155 ml of ethanol is dripped within 10 minutes into a solution of 15.57 g of 4-methoxymethyl-1-tosylindole in 155 ml of ethanol, whereupon the mixture is heated with reflux for 11/2 h; next it is cooled, stirred into 1.5 liters of half-saturated ice-cold sodium-dihydrogen-phosphate solution, extracted with ethyl acetate; whereupon, the ethyl-acetate extracts are washed neutral with water. After the solvent has been distilled off, the raw product is chromatographed on silical gel with hexane/ethyl-acetate (0-20%). 6.2 g of 4-methoxymethyl-indole is obtained in the form of a colorless oil.

reactant | sodium | 2.84 g | [Na] | Na
reactant | 4-methoxymethyl-1-tosylindole | 15.57 g | COCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C17H17NO3S
solvent | ethanol | 155 ml | C(C)O | C2H6O
solvent | ethanol | 155 ml | C(C)O | C2H6O
product | 4-methoxymethyl-indole | 6.2 g | COCC1=C2C=CNC2=CC=C1 | C10H11NO
